### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/Group/Basic,Algebra/Group/Pointwise/Set/Basic): add Filter.map_{sub,div}{Left,Right}_nhds{,LT,GT,NE}

### PR DESCRIPTION
**Pull request by teorth**
The file `Topology/Algebra/Group/Basic` contains various variants of `Filter.map_mulLeft_nhds` and `Filter.map_mulRight_nhds`.  The PR adds the analogous lemmas for division, with very similar proofs (which requires adding some helper lemmas to `Algebra/Group/Pointwise/Set/Basic`).  Using `to_additive', one also obtains lemmas for subtraction for free,

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 1]
```diff
@@ -1094,6 +1102,52 @@ theorem tendsto_div_nhds_one_iff {α : Type*} {l : Filter α} {x : G} {u : α 
 theorem nhds_translation_div (x : G) : comap (· / x) (𝓝 1) = 𝓝 x := by
   simpa only [div_eq_mul_inv] using nhds_translation_mul_inv x
 
+variable [TopologicalSpace H] [CommGroup H] [PartialOrder H] [IsOrderedMonoid H]
+
+variable [IsTopologicalGroup H]
+
+@[to_additive (attr := simp)]
+theorem Filter.map_divRight_nhdsGT {c a : H} : map (· / c) (𝓝[>] a) = (𝓝[>] (a / c)) := by
```
Comment (wwylele) [inline Mathlib/Topology/Algebra/Group/Basic.lean]:
```suggestion
theorem Filter.map_divRight_nhdsGT {c a : H} : map (· / c) (𝓝[>] a) = 𝓝[>] (a / c) := by
```
Same for occurrence below

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 2]
```diff
@@ -1094,6 +1102,52 @@ theorem tendsto_div_nhds_one_iff {α : Type*} {l : Filter α} {x : G} {u : α 
 theorem nhds_translation_div (x : G) : comap (· / x) (𝓝 1) = 𝓝 x := by
   simpa only [div_eq_mul_inv] using nhds_translation_mul_inv x
 
+variable [TopologicalSpace H] [CommGroup H] [PartialOrder H] [IsOrderedMonoid H]
+
+variable [IsTopologicalGroup H]
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/Group/Basic.lean]:
```suggestion
variable [TopologicalSpace H] [CommGroup H] [IsTopologicalGroup H]
  [PartialOrder H] [IsOrderedMonoid H]
```

**Review by ocfnash — APPROVED** [review]
Thanks!

**Comment by ocfnash** [comment]
bors merge
